US04000151
In the manner given in Example 3, 7-(trifluoromethyl)-5-(o-chlorophenyl)-s-triazolo[4,3-a]quinoline is oxidized at low temperature with sodium periodate and ruthenium dioxide to give 5-(trifluoromethyl)-2'-chloro-2-(3-methyl-4H-1,2,4-triazol-4-yl)benzophenone.

reactant | 7-(trifluoromethyl)-5-(o-chlorophenyl)-s-triazolo[4,3-a]quinoline | FC(C=1C=C2C(=CC=3N(C2=CC1)C=NN3)C3=C(C=CC=C3)Cl)(F)F | C17H9ClF3N3
reactant | sodium periodate | I(=O)(=O)(=O)[O-].[Na+]
catalyst | ruthenium dioxide | [Ru](=O)=O
product | 5-(trifluoromethyl)-2'-chloro-2-(3-methyl-4H-1,2,4-triazol-4-yl)benzophenone | FC(C=1C=CC(=C(C(=O)C2=C(C=CC=C2)Cl)C1)N1C(=NN=C1)C)(F)F | C17H11ClF3N3O
